US06521643B1
To a solution of N,N-bis(tert-butoxycarbonyl)-N″-(3-(3-carboxypyridin-2-yl)phenyl)guanidine (220 mg) in dichloromethane (2 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4N, 4 ml), and the mixture was stirred at room temperature for 16 hours. The solvent was evaporated under reduced pressure. To the residue was added 5% ethanol in ethyl acetate (100 ml), and the precipitate was collected by filtration and dried under reduced pressure to give 3-(3-carboxypyridin-2-yl)phenylguanidine dihydrochloride (144 mg).

reactant | N,N-bis(tert-butoxycarbonyl)-N″-(3-(3-carboxypyridin-2-yl)phenyl)guanidine | 220 mg | C(C)(C)(C)OC(=O)N(C(=NC1=CC(=CC=C1)C1=NC=CC=C1C(=O)O)N)C(=O)OC(C)(C)C | C23H28N4O6
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4N, 4 ml | O1CCOCC1 | C4H8O2
product | 3-(3-carboxypyridin-2-yl)phenylguanidine dihydrochloride | 144 mg | Cl.Cl.C(=O)(O)C=1C(=NC=CC1)C=1C=C(C=CC1)NC(=N)N | InChI=1S/C13H12N4O2.2ClH/c14-13(15)17-9-4-1-3-8(7-9)11-10(12(18)19)5-2-6-16-11;;/h1-7H,(H,18,19)(H4,14,15,17);2*1H
